US04356185
4-(4-Chlorophenyl)-2-(4-Valeryloxyphenyl)thiazole-5-acetic acid
4-[4-Chlorophenyl]-2-[4-hydroxyphenyl]thiazole-5-acetic acid (3.81 g, 0.11 moles) was dissolved in 0.2 N sodium hydroxide (55 ml, 0.027 moles) and cooled to 0° C. Valeryl anhydride (2.0 g, 0.011 moles) was added and the reaction flask shaken vigorously for 4 minutes. Dilute hydrochloric acid was added, and the resulting gum extracted into chloroform. The chloroform layer was washed with water, separated, dried over magnesium sulphate to give a white solid. The solid was stirred with water at about 50° C. for 1/4 hour, filtered and dried to give the title compound as a colourless solid (3.68 g), m.p. 197°-9° C.

reactant | 4-[4-Chlorophenyl]-2-[4-hydroxyphenyl]thiazole-5-acetic acid | 0.11 moles, 3.81 g | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)O | C17H12ClNO3S
reactant | sodium hydroxide | 0.027 moles, 0.2 N, 55 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(4-Chlorophenyl)-2-(4-Valeryloxyphenyl)thiazole-5-acetic acid | 3.68 g | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)OC(CCCC)=O | C22H20ClNO4S
